US06387911B1
2-Aminomethyl-3-(2,2,2-trifluoroethoxy)pyridine dihydrochloride
A solution of 0.53 g (2.62 mmol) of 2-cyano-3-(2,2,2-trifluoroethoxy)pyridine and 0.66 mL (7.87 mmol) of conc. HCl in 50 mL of ethanol was hydrogenated over 0.27 g of 10% palladium on carbon at 45 psi for 1.5 h. The catalyst was removed by filtration through a pad of Celite with EtOH. The solvents were removed at reduced pressure to give the title compound: 1H NMR (CD3OD) δ8.36 (d, 1H, 5.0 Hz), 7.73 (d,1H, 8.6 Hz), 7.54 (dd, 1H, 8.4, 5.0 Hz), 4.80 (q, 2H, 8.3 Hz), 4.33 (s, 2H).

reactant | 2-cyano-3-(2,2,2-trifluoroethoxy)pyridine | 2.62 mmol, 0.53 g | C(#N)C1=NC=CC=C1OCC(F)(F)F | C8H5F3N2O
reactant | HCl | 7.87 mmol, 0.66 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.27 g | [Pd] | Pd
product | 2-Aminomethyl-3-(2,2,2-trifluoroethoxy)pyridine dihydrochloride | Cl.Cl.NCC1=NC=CC=C1OCC(F)(F)F | InChI=1S/C8H9F3N2O.2ClH/c9-8(10,11)5-14-7-2-1-3-13-6(7)4-12;;/h1-3H,4-5,12H2;2*1H
